US04294972
A solution of ethyl N-amino-N-(3'-hydroxy-3-methylnonyl)carbamate (1.812 g; 6.97 mmole), and methyl isothiocyanate (764 mg; 10.5 mmole) in dry toluene (25 ml) was heated under refulx for 2 hrs and then allowed to cool to room temperature. Potassium t-butoxide (1,56 g; 13.96 mmole) was added and the mixture stirred at 25° for 16 hr. The mixture was portitioned between water (100 ml) and ethyl acetate (100 ml) and acidified with 5 M HCl. The aqueous layer was extracted with ethyl acetate (50 ml) and the combined organic layers washed with water (2×100 ml) and brine (100 ml), dried (Na2SO4), and evaporated to dryness and chromatography of the residue on Kieselgel 60 (10 g) in chloroform gave 2-(3'-hydroxy-3'-methylnonyl)-4-methyl-1,2,4-triazolidine-3-one-5-thione as a gum (1.83 g; 91%).

reactant | ethyl N-amino-N-(3'-hydroxy-3-methylnonyl)carbamate | 6.97 mmole, 1.812 g | NN(C(OCC)=O)CCC(CCCCCC)(C)O | C13H28N2O3
reactant | methyl isothiocyanate | 10.5 mmole, 764 mg | CN=C=S | C2H3NS
reactant | Potassium t-butoxide | 13.96 mmole, 1,56 g | CC(C)([O-])C.[K+]
reactant | HCl | 5 M | Cl | ClH
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | 2-(3'-hydroxy-3'-methylnonyl)-4-methyl-1,2,4-triazolidine-3-one-5-thione | OC(CCN1NC(N(C1=O)C)=S)(CCCCCC)C | C13H25N3O2S
